US05094938
300 ml of N,N-dimethylacetamide was added to 17.5 g of ethyl salicylate, and 34.6 g of potassium carbonate and then 32.1 of 2-hexyldecyl mesylate were added dropwise over about 30 min with stirring on a steam bath. After the addition the stirring was continued for 2 hours further under heating, and then the reaction mixture was cooled and transferred into a separately funnel. Then 300 ml of ethyl acetate and 1l of water were added for extraction. The ethyl acetate solution was washed with dilute hydrochloric acid, and then with an aqueous sodium hydrogencarbonate solution, and it was concentrated. 300 ml of ethanol was to the coil concentrate, to dissolve the concentrate, and a solution, of 12 g of sodium hydroxide in 50 ml of water was added dropwise thereto over about 10 min at room temperature with stirring. After the addition the stirring was continued for 1 hour further and 30 ml of concentrated hydrochloric acid diluted with 300 ml of water was added dropwise. The reaction liquid was transferred into a separately funnel, and 500 ml of water and 300 ml of ethyl acetate were added for extraction. The ethyl acetate solution was washed with 500 ml of water twice and then concentrated, to obtain 36.0 g of 2-(2-hexyldecyloxy)benzoic acid in the form of an oil.

reactant | N,N-dimethylacetamide | 300 ml | CN(C(C)=O)C | C4H9NO
reactant | ethyl salicylate | 17.5 g | C(C=1C(O)=CC=CC1)(=O)OCC | C9H10O3
reactant | potassium carbonate | 34.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-hexyldecyl mesylate | S(C)(=O)(=O)OCC(CCCCCCCC)CCCCCC | C17H36O3S
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 500 ml | O | H2O
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
product | 2-(2-hexyldecyloxy)benzoic acid | 36.0 g | C(CCCCC)C(COC1=C(C(=O)O)C=CC=C1)CCCCCCCC | C23H38O3
